US05089044
Methyl 2-(4,6-dimethoxy-2-pyrimidinylthio)-3-phenylacrylate
2.8 g (28.7 mmol) Diisopropylamine was dissolved in 80 ml tetrahydrofuran under nitrogen and treated with 11.5 ml (28.7 mmol) 2.5M n-butyllithium in hexane at a temperature between -78° and -50° C. The mixture was stirred for 10 minutes and then a solution of 7 g (28.7 mmol) methyl 2-(4,6-dimethoxy-2-pyrimidinylthio)acetate in 80 ml tetrahydrofuran was added to the reaction mixture and the mixture then stirred for 20 minutes. 2.8 g (28.7 mmol) Benzaldehyde was added, dropwise, to the solution. The reaction mixture was slowly allowed to reach room temperature, with stirring, and then stirred for 16 hours. The precipitate was treated with 500 ml water and extracted with ethyl acetate. The ethyl acetate phase, after drying over magnesium sulphate, was evaporated and then purified by medium pressure chromatography using hexane/ethyl acetate as eluent.

reactant | Diisopropylamine | 28.7 mmol, 2.8 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 28.7 mmol, 2.5M, 11.5 ml | C(CCC)[Li]
reactant | methyl 2-(4,6-dimethoxy-2-pyrimidinylthio)acetate | 28.7 mmol, 7 g | COC1=NC(=NC(=C1)OC)SCC(=O)OC | C9H12N2O4S
reactant | Benzaldehyde | 28.7 mmol, 2.8 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | Methyl 2-(4,6-dimethoxy-2-pyrimidinylthio)-3-phenylacrylate | COC1=NC(=NC(=C1)OC)SC(C(=O)OC)=CC1=CC=CC=C1 | C16H16N2O4S
